US08405069B2
d. (3,3,4,4,5,5,6,6,7,7,8,8,8-Tridecafluorooctyl)phosphonic acid
(3,3,4,4,5,5,6,6,7,7,8,8,8-Tridecafluorooctyl)phosphonic acid diethyl ester (0.79 g, 1.6 mmol) was dissolved in CH2Cl2 (5 ml) under N2. Bromotrimethylsilane (0.8 ml, 6.1 mmol) was added via syringe and the mixture was stirred for 6 hours. Volatiles were removed in vacuo to give a thick orange oil; this was dissolved in MeOH (20 ml) with fuming to give a yellow solution. The mixture was stirred overnight and evaporated to dryness to give a pale yellow powder. Addition of MeCN caused separation of a white solid from the yellow solution. The solid was collected by filtration, affording the desired product as a white powder. Yield 0.56 g, 1.3 mmol, 82%. Analysis found (calculated) %: C, 22.35 (22.45); H, 1.25 (1.41). 1H NMR (d6-DMSO, 400 MHz, 298 K): δ 2.35 (m, 2H), 1.73 (m, 2H). 13C{1H} NMR (d6-DMSO, 100 MHz, 298 K): δ 121-105 (m, C-F coupling unresolved), 25.13 (t, JC-F=23 Hz), 17.10 (d, JC-P=138 Hz). 31P{1H} NMR (d6-DMSO, 162 MHz, 298 K): δ 22.87. MS (FAB, m/z): 429 ([M+H]+, 100%).

reactant | (3,3,4,4,5,5,6,6,7,7,8,8,8-Tridecafluorooctyl)phosphonic acid diethyl ester | 1.6 mmol, 0.79 g | C(C)OP(OCC)(=O)CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C12H14F13O3P
reactant | Bromotrimethylsilane | 6.1 mmol, 0.8 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | MeCN | CC#N | C2H3N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 ml | CO | CH4O
product | (3,3,4,4,5,5,6,6,7,7,8,8,8-Tridecafluorooctyl)phosphonic acid | FC(CCP(O)(O)=O)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H6F13O3P
